US06677324B1
660 mg of 7α-(5-bromopentyl)-11β-fluorooestra-1,3,5(10)-triene-3,17β-diol are dissolved in 10 ml of N-methylpyrrolidone, treated with 1.2 g of methyl-(2-p-tolylethyl)amine and stirred at a bath temperature of 80° C. for 3 hours. For work-up, the mixture is added to saturated sodium chloride solution, extracted with ethyl acetate, dried over sodium sulphate and concentrated to dryness in vacuo. Column-chromatographic purification on silica gel using an ethyl acetate-methanol-ammonia gradient and subsequent crystallization from ethyl acetate/methylene chloride/hexane yields 277 mg of 11β-fluoro-7α-{5-[methyl-(2-p-tolylethyl)amino]pentyl}oestra-1,3,5(10)-triene-3,17β-diol of melting point 142-143° C.

reactant | 7α-(5-bromopentyl)-11β-fluorooestra-1,3,5(10)-triene-3,17β-diol | 660 mg | BrCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O | C23H32BrFO2
reactant | methyl-(2-p-tolylethyl)amine | 1.2 g | CNCCC1=CC=C(C=C1)C | C10H15N
reactant | sodium chloride | [Cl-].[Na+]
reactant | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 11β-fluoro-7α-{5-[methyl-(2-p-tolylethyl)amino]pentyl}oestra-1,3,5(10)-triene-3,17β-diol | 277 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCC1=CC=C(C=C1)C)C)O | C33H46FNO2
